US07375087B2
4-{[2-Fluoro-4-(3-{1-[(piperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}propyl)phenyl]methyl}-3-(β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 99 using 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]-2-fluorophenyl}methyl)-5-isopropyl-1H-pyrazole and 1-(2-amino-2-methylpropionyl)-4-(benzyloxycarbonyl)piperazine instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{2-[1-carboxy-1-(methyl)-ethylcarbamoyl]ethoxy}-2-methylphenyl)methyl]-5-isopropyl-1H-pyrazole and 1-benzylpiperazine, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]-2-fluorophenyl}methyl)-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)\C=C\CC(=O)O)F)C(C)C | C31H37FN2O12
reactant | 1-(2-amino-2-methylpropionyl)-4-(benzyloxycarbonyl)piperazine | NC(C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)(C)C | C16H23N3O3
reactant | 1-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
product | 4-{[2-Fluoro-4-(3-{1-[(piperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}propyl)phenyl]methyl}-3-(β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole | FC1=C(C=CC(=C1)CCCC(NC(C)(C)C(=O)N1CCNCC1)=O)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C31H46FN5O8
